US06599917B1
d) 2-Benzyl-3-methoxymethyloxy-6-[(3R)-3-fluoro-2-pyrrolidinone-1-yl]pyridine
3 ml of dichloromethane was added to 0.18 ml of diethylaminosulfur trifluoride. Into the mixture was added dropwise a solution of 3 ml of dichloromethane containing 371 mg of 2-benzyl-3-methoxymethyloxy-6-[(3R)-3-hydroxy-2-pyrrolidinone-1-yl]pyridine under cooling in an ethanol/dry ice bath. The mixture was returned to room temperature and stirred for 2 hours. Then, water was added thereto, and the mixture was extracted with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvents was removed. The residue was subjected to silica gel column chromatography using 17-20% ethyl acetate/hexane as an eluent for separation and purification, to give 116 mg of the target compound.

reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | diethylaminosulfur trifluoride | 0.18 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dichloromethane | 3 ml, 371 mg | ClCCl | CH2Cl2
reactant | 2-benzyl-3-methoxymethyloxy-6-[(3R)-3-hydroxy-2-pyrrolidinone-1-yl]pyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)N1C([C@@H](CC1)O)=O | C18H20N2O4
solvent | water | O | H2O
product | 2-Benzyl-3-methoxymethyloxy-6-[(3R)-3-fluoro-2-pyrrolidinone-1-yl]pyridine | 116 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1OCOC)N1C([C@@H](CC1)F)=O | C18H19FN2O3
